US05998433
i) Synthesis of 1-(2-dimethylaminomethyl-5,7-dihydro-4H-thieno[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one hydrochloride
1-(2-Dimethylaminomethyl-5,7-dihydro-4H-thieno[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one 70 mg was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. After this mixture was concentrated, diethyl ether was added; the resulting solid was filtered and washed with diethyl ether to yield the desired product.

reactant | 1-(2-Dimethylaminomethyl-5,7-dihydro-4H-thieno[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one | 70 mg | CN(C)CC1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)S1 | C22H30N2OS
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 1-(2-dimethylaminomethyl-5,7-dihydro-4H-thieno[2,3-c]pyridin-6-yl)-6-phenylhexan-1-one hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(CCCCCC2=CC=CC=C2)=O)S1 | InChI=1S/C22H30N2OS.ClH/c1-23(2)16-20-15-19-13-14-24(17-21(19)26-20)22(25)12-8-4-7-11-18-9-5-3-6-10-18;/h3,5-6,9-10,15H,4,7-8,11-14,16-17H2,1-2H3;1H
